US07250442B2
5-Bromo-1-(2-chloro-benzyl)-3,3-bis-(4-hydroxy-3,5-dimethyl-phenyl)-1,3-dihydro-indol-2-one
Combine crude 5-bromo-1-(2-chloro-benzyl)-1H-indole-2,3-dione (72 mg, 0.21 mmol) with 2,6-dimethylphenol (200 mg, 1.64 mmol) in trifluoromethanesulfonic acid (1 mL) and stir for 1 h. Dilute with CH2Cl2 and stir with ice water for 20 min. Pipette off ice water and stir with saturated NaHCO3 solution for 20 min. Remove aqueous by pipette and pass organic layer through a 5 mL Varian Chem Elut column. Concentrate in vacuo to give 131 mg solid. Triturate in MeOH to give 50 mg (41%) of a white solid. MS (ES): m/z=576, 578 (M+1), 574, 576 (M−1); 1H NMR(DMSO-d6): δ8.31 (s, 2H), 7.53 (d, J=7.9 Hz, 1H), 7.45 (m, 2H), 7.34 (t, J=7.6 Hz, 1H), 7.25 (t, J=7.6 Hz, 1H), 6.95 (m, 2H), 6.71 (s, 4H), 5.06 (s, 2H), 2.09 (s, 12H).

reactant | 5-bromo-1-(2-chloro-benzyl)-1H-indole-2,3-dione | 0.21 mmol, 72 mg | BrC=1C=C2C(C(N(C2=CC1)CC1=C(C=CC=C1)Cl)=O)=O | C15H9BrClNO2
reactant | 2,6-dimethylphenol | 1.64 mmol, 200 mg | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | trifluoromethanesulfonic acid | 1 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5-Bromo-1-(2-chloro-benzyl)-3,3-bis-(4-hydroxy-3,5-dimethyl-phenyl)-1,3-dihydro-indol-2-one | 131 mg | BrC=1C=C2C(C(N(C2=CC1)CC1=C(C=CC=C1)Cl)=O)(C1=CC(=C(C(=C1)C)O)C)C1=CC(=C(C(=C1)C)O)C | C31H27BrClNO3
